US06599917B1
b) 2-Benzyl-3-iodo-6-(4-ethoxycarbonylpiperidino)pyridine
Under stirring in an ice bathe, 1.25 g of N-iodosuccinimide was added little by little to a mixture of 1.2 g of 2-benzyl-6-(4-ethoxycarbonylpiperidino)pyridine and 10 ml of N,N-dimethylformamide, followed by stirring as it was overnight. Sodium sulfite was added thereto, and the mixture was extracted with ethyl acetate-water. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The residue was subjected to silica gel column chromatography and eluted with 1-5% ethyl acetate/hexane, to give 1.42 g of the target compound.

reactant | N-iodosuccinimide | 1.25 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-benzyl-6-(4-ethoxycarbonylpiperidino)pyridine | 1.2 g | C(C1=CC=CC=C1)C1=NC(=CC=C1)N1CCC(CC1)C(=O)OCC | C20H24N2O2
reactant | Sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-Benzyl-3-iodo-6-(4-ethoxycarbonylpiperidino)pyridine | 1.42 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1CCC(CC1)C(=O)OCC | C20H23IN2O2
